US06797723B1
Preparation of 2-{3-[3-(2-Ethyl-5-hydroxy-4-thiophen-3-yl-phenoxy)propoxy]-2-propyl-phenoxy}benzoic acid hydrate.
Preparation of 3-[2-benzyloxy-4-(3-chloropropoxy)-5-ethylphenyl]thiophene. A mixture of 4-(benzyloxy)-5-bromo-2-(3-chloropropoxy)ethylbenzene (1.90 g, 5.30 mmol), 3-thiopheneboronic acid (2.00 g, 15.9 mmol), tetrakis(triphenylphosphine)palladium(0) (312 mg, 0.270 mmol), 2 M aqueous sodium carbonate solution (4 mL), and n-propanol (4 mL) in toluene (16 mL) was refluxed for 4 h. The mixture was cooled to room temperature, diluted with diethyl ether, washed once with water and once with saturated sodium chloride solution. The organic layer was dried (magnesium sulfate), filtered, and concentrated in vacuo. Chromatography (silica gel, 5% ethyl acetate/95% hexane) of the residue provided 1.54 g (80%) of the title product as a white solid: mp 65-67° C. 1H NMR (CDCl3) δ 7.58 (d, J=2.8 Hz, 1H), 7.49 (d, J=5.2 Hz, 1H), 7.45-7.30 (m, 7H), 6.62 (s, 1H), 5.13 (s, 2H), 4.14 (t, J=5.8 Hz, 2H), 3.81 (t, J=6.3 Hz, 2H), 2.66 (q, J=7.5 Hz, 2H), 2.29 (quintet, J=6.0 Hz, 2H), 1.24 (t, J=7.5 Hz, 3H); MS FD m/e 386 (p); IR (CHCl3, cm−1) 2969, 1613, 1501, 1138. Anal. Calcd for C22H23O2ClS: C, 68.29; H, 5.99. Found: C, 68.53; H, 6.00.

reactant | 3-[2-benzyloxy-4-(3-chloropropoxy)-5-ethylphenyl]thiophene | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCCCCl)CC)C1=CSC=C1 | C22H23ClO2S
reactant | 4-(benzyloxy)-5-bromo-2-(3-chloropropoxy)ethylbenzene | 5.30 mmol, 1.90 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1Br)CCOCCCCl | C18H20BrClO2
reactant | 3-thiopheneboronic acid | 15.9 mmol, 2.00 g | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | sodium carbonate | 2 M, 4 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | toluene | 16 mL | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.270 mmol, 312 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | n-propanol | 4 mL | C(CC)O | C3H8O
product | 2-{3-[3-(2-Ethyl-5-hydroxy-4-thiophen-3-yl-phenoxy)propoxy]-2-propyl-phenoxy}benzoic acid hydrate | 1.54 g, 80% | O.C(C)C1=C(OCCCOC=2C(=C(OC3=C(C(=O)O)C=CC=C3)C=CC2)CCC)C=C(C(=C1)C1=CSC=C1)O | InChI=1S/C31H32O6S.H2O/c1-3-9-23-27(12-7-13-28(23)37-29-11-6-5-10-24(29)31(33)34)35-15-8-16-36-30-19-26(32)25(18-21(30)4-2)22-14-17-38-20-22;/h5-7,10-14,17-20,32H,3-4,8-9,15-16H2,1-2H3,(H,33,34);1H2
